US06767919B2
1,4-Dihydroxythioxanthone
A suspension of thiosalicylic acid (5.0 g) and hydroquinone (5.0 g) in concentrated sulfuric acid (100 ml) is stirred at room temperature for 4 h. The red suspension is poured on ice and allowed to reach ambient temperature when it is then filtered. The solid obtained is treated with saturated sodium bicarbonate and the solution was carefully neutralized with 20% hydrochloric acid. The solid is filtered, dissolved in acetone and filtered again through a plug of silica gel. The solution is concentrated and the solid purified by column chromatography with silica gel using a mixture of hexanes: ethyl acetate (1:1) as the eluent. The fraction containing the product is concentrated under reduced pressure to provide the yellow title compound (2.36 g, 30%).

reactant | thiosalicylic acid | 5.0 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | hydroquinone | 5.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 1,4-Dihydroxythioxanthone | 2.36 g, 30% | OC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H8O3S
